US07253165B2
Synthesis of (S)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(methyl-phenethyl-amino)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (S)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and N-methylphenethylamine in ethanol essentially as described above in Example 21. Purity by LC/MS=100%, [M+H]+=421.

reactant | (S)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@H]2OC2)C=C1 | C16H12FNO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | N-methylphenethylamine | CNCCC1=CC=CC=C1 | C9H13N
solvent | ethanol | C(C)O | C2H6O
product | (S)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(methyl-phenethyl-amino)-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@H](CN(CCC3=CC=CC=C3)C)O)C=C2)C=C1 | C25H25FN2O3
